US09290485B2
b) 1-Biphenyl-4-ylmethyl-1H-[1,2,3]triazole-4-carboxylic acid methyl ester
A mixture of 4-Azidomethyl-biphenyl (145 mg, 0.5 mmol), methyl propiolate (44 mg, 0.5 mmol), copper(II) sulfate (17 mg, 0.1 mmol) and sodium ascorbate (103 mg, 0.5 mmol) in 3 mL tBuOH and 1 mL water was stirred at room temperature for 3 h. Ethyl acetate was added and the mixture was extracted with water. The organic layer was dried over MgSO4 and evaporated in vacuo to give the title compound which was used in the next step without further purification. LCMS (method A) RtA=1.964 min; [M+H]+=294.0.

reactant | 4-Azidomethyl-biphenyl | 0.5 mmol, 145 mg | N(=[N+]=[N-])CC1=CC=C(C=C1)C1=CC=CC=C1 | C13H11N3
reactant | methyl propiolate | 0.5 mmol, 44 mg | C(C#C)(=O)OC | C4H4O2
reactant | sodium ascorbate | 0.5 mmol, 103 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tBuOH | 3 mL | CC(C)(C)O | C4H10O
solvent | water | 1 mL | O | H2O
catalyst | copper(II) sulfate | 0.1 mmol, 17 mg | S(=O)(=O)([O-])[O-].[Cu+2]
product | 1-Biphenyl-4-ylmethyl-1H-[1,2,3]triazole-4-carboxylic acid methyl ester | COC(=O)C=1N=NN(C1)CC1=CC=C(C=C1)C1=CC=CC=C1 | C17H15N3O2
